US07429579B2
a) 6-{5-[3-(5,5-Dimethyl-[1,3] dioxan-2-yl)-propylsulfanyl]-4-methyl-4H-[1,2,4] triazol-3-yl}-quinoline
4-Methyl-5-quinolin-6-yl-4H-[1,2,4]triazole-3-thiol (0.5 g, 2.07 mmol), 2-(3-Bromo-propyl)-5,5-dimethyl-[1,3]dioxane (0.49 g, 2.07 mmol) and lithium hydroxide (50 mg) were heated in dimethylformamide at 100° C. for 3 h. The mixture was cooled and partitioned between water (80 ml) and ethyl acetate (100 ml). The layers were separated and the aqueous re-extracted with ethyl acetate (100 ml). The combined organic portions were washed with brine (100 ml) and then dried (Na2SO4), filtered and evaporated to give a colourless oil. Purification by silica gel chromatography (eluent EtOAc—10% MeOH:EtOAc) which gave the title compound as a colourless solid (0.53 g, 65%).

reactant | 4-Methyl-5-quinolin-6-yl-4H-[1,2,4]triazole-3-thiol | 2.07 mmol, 0.5 g | CN1C(=NN=C1C=1C=C2C=CC=NC2=CC1)S | C12H10N4S
reactant | 2-(3-Bromo-propyl)-5,5-dimethyl-[1,3]dioxane | 2.07 mmol, 0.49 g | BrCCCC1OCC(CO1)(C)C | C9H17BrO2
reactant | lithium hydroxide | 50 mg | [OH-].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-{5-[3-(5,5-Dimethyl-[1,3] dioxan-2-yl)-propylsulfanyl]-4-methyl-4H-[1,2,4] triazol-3-yl}-quinoline | 0.53 g, 65% | CC1(COC(OC1)CCCSC=1N(C(=NN1)C=1C=C2C=CC=NC2=CC1)C)C | C21H26N4O2S
